2144-04-12 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TLC placed, a-line placed
   - tachycardic to 150s, appeared irregular,  appeared to have occasional
   pacing spikes, spont converted, milrinone d/ced, no other medications
   given
 ARTERIAL LINE - START [**2144-4-11**] 06:00 PM
 MULTI LUMEN - START [**2144-4-11**] 09:05 PM
   central line in too far by CXR confirmation- pulled back 3 cm by HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-4-11**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-12**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.2
   HR: 91 (83 - 152) bpm
   BP: 88/56(66) {81/52(58) - 110/68(83)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CO/CI (Fick): (9.2 L/min) / (5.1 L/min/m2)
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                    861 mL
                                                                     32 mL
   PO:
   TF:
   IVF:
                                                                     21 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    480 mL
   Urine:
                                                                    240 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -279 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.40/40/120/25/0
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, to hips
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   171 K/uL
   9.6 g/dL
   118 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.6 mEq/L
   49 mg/dL
   97 mEq/L
   130 mEq/L
   31.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2144-4-11**]  06:34 PM
                             [**2144-4-11**]  06:44 PM
   WBC
   9.9
   Hct
   31.8
   Plt
   171
   Cr
   1.4
   TropT
   0.03
   TCO2
   26
   Glucose
   118
   Other labs: PT / PTT / INR:14.5/33.7/1.3, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:23/22, Alk Phos / T Bili:271/1.0,
   Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5 %, Eos:0.2 %,
   Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR: LIKELY MODERATE INTERSTITIAL PULM EDEMA. PNA NOT ENTIRELY
   EXCLUDED. F/U IMAGING RECOMMENDED.
   Microbiology: UA nit neg, leuks tr
   Assessment and Plan
   ASSESSMENT AND PLAN:  63 y/o F w/ decompensated Stage IV CHF admitted
   for inotropic assisted diuresis.
   .
   # PUMP: EF 15%.  Decompensated heart failure, acute on chronic systolic
   failure with e/o right sided failure.  At this point may not need
   inotropic assistance given BP stable high 90's to 100.  Hold on swan
   for now, and start milrinone at low dose.  Patient had episode of
   tachyarrhythmia which may have been secondary to milrinone.
   - Lasix 80mg IV
   - Lasix gtt
   - Restart Milrinone gtt + bolus
   - Repeat Echo in AM.
   - hold carvedilol for now, and restart when able
   - restart ACE when able.
   - Monitor on tele with milrinone
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - hold on beta blocker due to pressures, also not on ACEi
   .
   # RHYTHM: Unclear if sinus vs. junctional rhythm given poor baseline.
   Had tachyarrhythmia to 150s last pm, blood pressures remained stable.
   Milrinone stopped. Patient self terminated.
   - monitor on telemetry
   - add beta blocker when pressures tolerate
   - digoxin level
   - restart milrinone cautiously
    .
   # Possible Pneumonia: Retrocardiac opacity and RML opacity by CXR c/w
   pneumonia.  Patient with h/o dry cough attributable to CHF, but no
   reported fever at osh.
   - sputum cultures
   - CIS
   - Vanco/Cefepime for fever given she resides in nursing home and has
   potential source.
   .
   # Hypothyroidism:
   - Continue synthroid
   .
   # CArdiac Risk Factors
   - lipid panel/A1c in AM.
   .
   # Hypervolemic Hypernatremia: likely secondary to CHF
   - Urine lytes.
   .
   FEN:
   - cardiac diet with 1200ml fluid restriction
   .
   ACCESS:
   - PIV
   - R IJ TLC in place
   ICU Care
   Nutrition:
   Comments: fluid restriction
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2144-4-11**] 04:40 PM
   Arterial Line - [**2144-4-11**] 06:00 PM
   Multi Lumen - [**2144-4-11**] 09:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: pt may not be consentable currently
   Code status: Full code
   Disposition:ICU

2144-04-13 07:02:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-4-12**] 12:30 PM
 URINE CULTURE - At [**2144-4-12**] 12:30 PM
 BLOOD CULTURED - At [**2144-4-12**] 01:00 PM
   - TLC pulled back a further 6cm, to 13cm line.  CXR shows good
   placement.
   - patient in and out of a-fib, with pressure drops.  Spontaneous
   conversions back to NSR.
   - re-started on milrinone at 0.25, metoprolol 12.5 PO given
   concurrently to prevent atrial arrythmias.
   -started on vanc/zosyn/cipro for HCAP.
   -spoke with family, confirmed to be full code.
   -Non-invasive bps running typically 20mm hg lower than art line.
   -still with lasix at 20/hr not putting out well, given 5mg PO
   metolazone.
   - started phenylephrine due to MAPs < 55
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-4-12**] 12:00 PM
   Piperacillin - [**2144-4-13**] 05:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Milrinone - 0.25 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 86 (84 - 150) bpm
   BP: 97/60(71) {67/46(52) - 113/69(82)} mmHg
   RR: 24 (10 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,205 mL
                                                                    530 mL
   PO:
                                                                    340 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    865 mL
                                                                    470 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    590 mL
   Urine:
                                                                  1,170 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     35 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.33/51/86.[**Numeric Identifier 143**]//0
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Left pupil 7-8 mm and non-reactive. Right pupil 4
   mm and non-reactive.
   Head, Ears, Nose, Throat: Normocephalic. OP clear.
   Cardiovascular: Frequent ectopy. Normal rate. Normal s1 and s2. No
   M/G/R.
   Peripheral Vascular: Radial pulses 2+ bilaterally.
   Respiratory / Chest: Decreased breath sounds on left with absent breath
   sounds at left base.
   Abdominal: Soft, Non-tender, Bowel sounds present.
   Extremities: Edema in all 4 extremities.
   Skin: Warm
   Neurologic: Attentive. Pupils as above. Conversive. Responds
   appropriately to questions and commands to move all extremities.
   Labs / Radiology
   149 K/uL
   8.8 g/dL
   121 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   52 mg/dL
   98 mEq/L
   134 mEq/L
   29.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2144-4-11**]  06:34 PM
                             [**2144-4-11**]  06:44 PM
                             [**2144-4-12**]  06:15 AM
                             [**2144-4-12**]  04:24 PM
                             [**2144-4-12**]  06:57 PM
   WBC
   9.9
   10.6
   Hct
   31.8
   29.6
   Plt
   171
   149
   Cr
   1.4
   1.3
   1.3
   TropT
   0.03
   TCO2
   26
   28
   Glucose
   118
   121
   Other labs: PT / PTT / INR:14.8/31.8/1.3, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:23/22, Alk Phos / T Bili:271/1.0,
   Differential-Neuts:91.4 %, Lymph:3.7 %, Mono:4.5 %, Eos:0.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  63 y/o F w/ decompensated Stage IV CHF admitted
   for inotropic assisted diuresis.
   .
   # PUMP: EF 15%.  Decompensated heart failure, acute on chronic systolic
   failure.  MAPs in the 60s despite milrinone and phenylephrine.  Still
   anasarcic.  Urine output picked up after rounds 100 cc/hr.
   - Lasix gtt at 80cc/hr
   - No metolazone for now as patient is diuresing well on lasix gtt
   - Continue milrinone + phenylephrine
   - f/u repeat echo
   - hold carvedilol for now; on metoprolol for HR control
   - restart ACE when able
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - hold on beta blocker and ACEi due to pressures
   .
   # RHYTHM: Unclear if sinus vs. junctional rhythm given poor baseline.
   Has had Afib/RVR, with drop in BP. Now in sinus vs. junctional rhythm.
   Has ICD.
   - monitor on telemetry
   - on metoprolol
   - digoxin level
   .
   # LLL collapse: Most recent CXR [**2144-4-12**] shows LLL airless and improving
   right basilar consolidation.  Afebrile, although WBC count increasing.
   Likely component of CHF, but concern is for pneumonia as well.
   - sputum cultures
   - blood and urine cultures pending
   - CIS
   - continue vanc/cipro
   - change Zosyn to cefepime
   - check vanc trough in a.m.
   .
   # Altered mental status: Per old CCU team, patient
s mental status has
   been altered but stable for past week or so.
   - non-contrast head CT
   .
   # Fixed dilated right pupil: Unclear significance as patient is
   otherwise alert, interactive, able to move all 4 extremities. 3^rd
   nerve seems unwise intact as extraocular movements are normal.
   - non-contrast head CT
   .
   # Hypothyroidism:
   - Continue synthroid
   .
   # Cardiac Risk Factors: LDL 69.
   .
   # Hypervolemic Hyponatremia: likely secondary to CHF.
   - fluid restrict to 1200 mL
   .
   FEN:
   -
   .
   ACCESS:
   - PIV
   - R IJ TLC in place
   ICU Care
   Nutrition: cardiac diet with 1200ml fluid restriction
   Comments: fluid restriction
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2144-4-11**] 04:40 PM
   Arterial Line - [**2144-4-11**] 06:00 PM
   Multi Lumen - [**2144-4-11**] 09:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: pt may not be consentable currently
   Code status: Full code
   Disposition:ICU

2144-04-14 07:22:00 Physician Resident Progress Note
PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2144-4-13**] 05:00 PM
   - Zosyn changed to cefepime to decrease sodium load
   - Patient with 10-20 beat runs of NSVT
   - CT head ordered; not done as patient was not stable enough to leave
   floor
   - echo shows mild-moderate LV dysfunction, LV apical aneurysm, markedly
   dilated RV with RV free wall hypokinesis
   - patient noted to be aspirating Ensure; diet changed to NPO
   - 2 p.m., PCO2 61, initiated BiPAP
   - 4:45 p.m. patient intubated for hypoxemia, hypercarbia, and altered
   mental status; OG tube placed
   - 5 p.m., ordered metolazone
   - 6 p.m., ET tube malpositioned in left mainstem, withdrew tube 3.5-4
   cm; OG tube coiled in hiatal hernia, withdrew and readvanced OG tube
   - 6:30 p.m. CXR showed ET tube ET tube in trachea 1 cm above carina,
   with OG tube in stomach
   - ET tube pulled back 2 cm
   - changed cipro and flagyl to PO now that OG tube in place
   - 9 p.m., BP dropped to 60s/40s; added vasopressin and decreased PEEP
   with improvement of SBP to 90s
   - d/c'ed metoprolol
   - after midnight, MAP and urine output improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-4-13**] 05:00 AM
   Vancomycin - [**2144-4-13**] 12:00 PM
   Cefipime - [**2144-4-13**] 01:00 PM
   Ciprofloxacin - [**2144-4-14**] 05:30 AM
   Metronidazole - [**2144-4-14**] 05:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Milrinone - 0.25 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-4-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-14**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 94 (88 - 99) bpm
   BP: 105/63(79) {73/44(53) - 120/69(85)} mmHg
   RR: 14 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.5 kg (admission): 91.3 kg
   Height: 57 Inch
    CVP: 16 (16 - 18)mmHg
   Total In:
                                                                  2,668 mL
                                                                    632 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  2,188 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                  1,965 mL
   Urine:
                                                                  1,895 mL
                                                                  1,965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    773 mL
                                                                 -1,333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 43.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/36/124/25/2
   Ve: 8 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Intubated. Sedated.
   Eyes / Conjunctiva: Left pupil round and reactive to light 7 mm to 6
   mm. Right pupil round and reactive to light 4 mm to 3 mm.
   Head, Ears, Nose, Throat: NC/AT. OP clear.
   Cardiovascular: Frequent ectopy. Normal baseline rate, but heart rate
   transiently increased to 130s during exam. Normal s1 and s2. No M/G/R.
   Peripheral Vascular: Radial and DP pulses 2+ bilaterally.
   Respiratory / Chest: Decreased breath sounds at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present.  Foley in place with
   light yellow urine in bag.
   Extremities: Edema in all 4 extremities.
   Skin: Warm
   Neurologic: Pupils as above. Does not respond to commands to open or
   close eyes or move any extremity.
   Labs / Radiology
   161 K/uL
   9.3 g/dL
   155 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.1 mEq/L
   51 mg/dL
   94 mEq/L
   131 mEq/L
   31.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2144-4-13**]  06:14 AM
                             [**2144-4-13**]  11:56 AM
                             [**2144-4-13**]  02:00 PM
                             [**2144-4-13**]  03:08 PM
                             [**2144-4-13**]  04:10 PM
                             [**2144-4-13**]  05:40 PM
                             [**2144-4-13**]  07:27 PM
                             [**2144-4-13**]  10:54 PM
                             [**2144-4-14**]  04:25 AM
                             [**2144-4-14**]  04:41 AM
   WBC
   17.3
   12.8
   Hct
   28.8
   31.4
   Plt
   159
   161
   Cr
   1.3
   1.4
   TCO2
   29
   29
   28
   27
   26
   29
   27
   26
   Glucose
   139
   152
   155
   Other labs: PT / PTT / INR:15.3/32.5/1.3, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:23/22, Alk Phos / T Bili:271/1.0,
   Differential-Neuts:91.8 %, Lymph:3.3 %, Mono:4.5 %, Eos:0.3 %, Lactic
   Acid:2.3 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   63 y/o F w/ decompensated Stage IV CHF admitted for inotropic-assisted
   diuresis, now intubated for hypercarbic respiratory failure/airway
   protection.
   .
   # PUMP: Acute on chronic right and left-sided systolic heart failure,
   with likely component of distributive shock.  Echo [**2144-4-13**] shows mild to
   moderate regional left ventricular systolic dysfunction with near
   akinesis of the distal third of the ventricle with an aneurysmal apex.
   The right ventricular cavity is markedly dilated with moderate global
   free wall hypokinesis.  The patient is currently on milrinone,
   phenylephrine, and vasopressin with MAPs around 80 and urine output
   since midnight.
   - Lasix gtt + metolozone
   - Continue milrinone + phenylephrine + vasopressin
   - Consider PA catheter
   - holding ACE and beta blocker in setting of shock
   - start heparin gtt
   - obtain records of prior echo from [**Hospital3 735**]
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - hold on beta blocker and ACEi due to pressor requirement
   .
   # RHYTHM: Unclear if sinus vs. junctional rhythm given poor baseline.
   Has ICD. Has had frequent ventricular ectopy. Had Afib/RVR on night of
   [**2144-4-12**], but rhythm has been more stable since then.
   - monitor on telemetry
   - K, Mg repletion
   .
   # Respiratory failure: Intubated [**2144-4-13**] for worsening
   hypercarbia/mental status.  CXR [**2144-4-14**] shows well-positioned ET tube,
   lucency at left heart border (not felt to be pneumothorax), and .
   Afebrile, with mild leukocytosis (improved today).  Etiology of
   respiratory failure likely CHF, with possible component of pneumonia.
   Sputum frothy but also purulent in appearance. Sputum gram stain
   polymicrobial.  Urine culture contaminated.
   - continue mechanical ventilation with CMV, vital volume 500, RR 14,
   FiO2 40%, PEEP 5
   - not candidate for ventilator weaning in setting of hemodynamic
   instability
   - f/u sputum and blood cultures
   - repeat urine culture
   - continue vanc/cipro/cefepime/flagyl
   - continue diuresis as above
   .
   # Fixed dilated pupils: Noted on [**2144-4-13**]. Previously, pupils have been
   documented as equal and reactive. So far, have not been able to pursue
   head imaging secondary to hemodynamic instability.
   - non-contrast head CT when stable enough to leave CCU for CT
   .
   # Hypervolemic hyponatremia: likely secondary to CHF.
   .
   # Elevated lactate: Likely secondary to hypoperfusion.
   - continue hemodynamic support with pressors
   .
   # Hypothyroidism:
   - continue Synthroid
   .
   # Cardiac Risk Factors: LDL 69.  HbA1c 6.6.
   ICU Care
   Nutrition: nutrition consult for tube feeds
   Glycemic Control: insulin sliding scale
   Lines:
   Arterial Line - [**2144-4-11**] 06:00 PM
   Multi Lumen - [**2144-4-11**] 09:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: lansoprazole
   VAP: chlorhexidine rinses [**Hospital1 7**]; HOB elevated to 30 degrees
   Comments:
   Communication:  Brother is HCP; contact information in chart
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11131**].
   I would add the following remarks:
   Medical Decision Making
   Respiratory failure necessitating intubation yesterday.  Hypotension in
   the setting vasopressor support with marginal urine output despite IV
   diuretics.  Plan on PA catheter placement to help elucidate
   contribution of cardiogenic and vasodilatory shock.  Will investigate
   altered mental status and anisocoria with a CT Scan looking for
   intracranial bleed.
   Critical care time 40 minutes for vasopressor management, ventilatory
   management and management of shock.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2144-4-14**] 13:19 ------

2144-04-15 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - START [**2144-4-14**] 12:24 PM
   [**2144-4-15**]
   - K 2.9 repleted with 60K -recheck at 10.
   - Failed RISBI - unable to breath spontaneously.
   - Lightened sedation. Neuro: pupils reactive to light.
   - Does not respond to voice, withdraws slightly from painful stimuli.
   - ABG slightly alkalotic.
   - Heparin restarted.
   [**2144-4-14**]
   - Crit stable
   - Swan ganz catheter placed with PVR: 70 (normal 150) SVR: 730 (normal
   800-1200). Mostly L heart failure + sepsis
   - Central line cx from [**4-12**] showed GPC in clusters, [**Last Name (un) 270**] pending.
   - Head CT -wet read no acute hemorrhage - wet read so not yet discussed
   with family.
   - Having guiac +ve diarrhea -sent c.diff, crit stable
   - Placed on insulin sliding scale
   - Milrinone, lasix dc'd, neo being weaned
   - K 2.7, repleted, 3.4 on repeat, repleted again f/u am K+
   - Repeat UCx result pending.
   - Tube feeds started.
   - ABG looked good x2 -could decrease FI02.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-4-13**] 05:00 AM
   Cefipime - [**2144-4-14**] 11:45 AM
   Vancomycin - [**2144-4-14**] 01:00 PM
   Ciprofloxacin - [**2144-4-15**] 05:23 AM
   Metronidazole - [**2144-4-15**] 05:23 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3.9 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-4-14**] 08:00 AM
   Lansoprazole (Prevacid) - [**2144-4-14**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-15**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 89 (82 - 98) bpm
   BP: 90/58(71) {69/47(56) - 139/107(119)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 91.3 kg
   Height: 67 Inch
    CVP: 14 (11 - 19)mmHg
   PAP: (55 mmHg) / (28 mmHg)
   CO/CI (Fick): (4.9 L/min) / (2.4 L/min/m2)
   SvO2: 58%
   Mixed Venous O2% Sat: 58 - 70
   Total In:
                                                                  2,134 mL
                                                                    754 mL
   PO:
   TF:
                                                                     22 mL
                                                                    125 mL
   IVF:
                                                                  1,802 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  6,630 mL
                                                                  1,680 mL
   Urine:
                                                                  6,630 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,496 mL
                                                                   -926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/39/145/27/7
   Ve: 6.6 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Intubated. Sedated.
   Eyes / Conjunctiva: Pupils reactive to light (L 4->3mm; R 3->2mm).
   Head, Ears, Nose, Throat: NC/AT
   Cardiovascular: Normal s1 and s2. No M/G/R.
   Respiratory / Chest: Decreased breath sounds at bases. No rales or
   rhonchi noted.
   Abdominal: Soft, Bowel sounds present.  Foley in place with light
   yellow urine in bag.
   Extremities: Significant pitting edema in all 4 extremities.
   Neurologic: Pupils as above. Does not respond to commands to open or
   close eyes or move any extremity.  Does not withdraw from pain.
   Labs / Radiology
   138 K/uL
   9.7 g/dL
   154 mg/dL
   1.3 mg/dL
   27 mEq/L
   2.9 mEq/L
   45 mg/dL
   93 mEq/L
   131 mEq/L
   32.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2144-4-14**]  04:41 AM
                             [**2144-4-14**]  06:54 AM
                             [**2144-4-14**]  10:32 AM
                             [**2144-4-14**]  12:36 PM
                             [**2144-4-14**]  03:50 PM
                             [**2144-4-14**]  03:57 PM
                             [**2144-4-14**]  08:47 PM
                             [**2144-4-14**]  09:02 PM
                             [**2144-4-15**]  03:56 AM
                             [**2144-4-15**]  04:26 AM
   WBC
   10.7
   Hct
   29
   33
   32.3
   32.6
   Plt
   138
   Cr
   1.4
   1.4
   1.3
   TCO2
   26
   29
   25
   28
   29
   31
   Glucose
   177
   168
   162
   154
   Other labs: PT / PTT / INR:17.6/32.2/1.6, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:23/22, Alk Phos / T Bili:271/1.0,
   Differential-Neuts:91.8 %, Lymph:3.3 %, Mono:4.5 %, Eos:0.3 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   63 y/o F w/ decompensated Stage IV CHF admitted for inotropic-assisted
   diuresis, now intubated for hypercarbic respiratory failure/airway
   protection.
   # Pressor Requirement: Likely multifactorial with some cardiogenic and
   distributive components. Swan-Ganz catheter showing hemodynamics c/w
   with sepsis; however, this could be related to pt being on milrinone at
   the time. Additionally, pt with GPCs growing in blood cx, sensitivities
   pending (? Contaminant). CXR with ?PNA. Sputum GS showing GPCs in pairs
   and clusters as well as GPRs, culture pending. Pt currently on vanc,
   cefepime, cipro, flagyl.
   - f/u repeat CXR this morning
   - continue current abx regimen
   - f/u repeat urine cx
   - f/u stool for c.diff
   # Respiratory failure: Intubated [**2144-4-13**] for worsening
   hypercarbia/mental status.  Respiratory failure likely multifactorial,
   with some component of heart failure/fluid overload as well as some
   pneumonia component.  Sputum GS polymicrobial, culture pending.  ABG
   this AM slightly alkalotic, now s/p decrease in FiO2 and RR.
   - repeat ABG with new vent settings
   - continue abx as above
   - f/u sputum and blood cultures
   - diuretics d/c
ed as pt is putting out good urine on her own at this
   point
   # PUMP: Acute on chronic right and left-sided systolic heart failure,
   with likely component of distributive/septic shock.  Echo [**2144-4-13**] shows
   mild to moderate regional left ventricular systolic dysfunction with
   near akinesis of the distal third of the ventricle with an aneurysmal
   apex. The right ventricular cavity is markedly dilated with moderate
   global free wall hypokinesis.  The patient is currently diuresing well
   on her own.  She is on phenylephrine and vasopressin for BP support.
   - Lasix d/c
ed as pt diuresing well
   - Continue phenylephrine + vasopressin for now
   - holding ACE and beta blocker in setting of shock
   - on heparin gtt for apical aneurysm
   - obtain records of prior echo from [**Hospital3 735**]
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - hold on beta blocker and ACEi due to pressor requirement
   .
   # RHYTHM: Unclear if sinus vs. junctional rhythm given poor baseline.
   Has ICD. Has had frequent ventricular ectopy. Had Afib/RVR on night of
   [**2144-4-12**], but rhythm has been more stable since then.
   - monitor on telemetry
   - K, Mg repletion
   .
   # Fixed dilated pupils: Noted on [**2144-4-13**]. Previously, pupils have been
   documented as equal and reactive. Pupillary exam improving. Head CT
   with no bleed on prelim read.
   - f/u final head CT read
   - perform neuro exam when sedation is worn off
   .
   # Hypervolemic hyponatremia: likely secondary to CHF.
   .
   # Elevated lactate: Likely secondary to hypoperfusion.
   - continue hemodynamic support with pressors
   .
   # Hypothyroidism:
   - continue Synthroid
   .
   # Cardiac Risk Factors: LDL 69.  HbA1c 6.6.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2144-4-14**] 09:47 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2144-4-11**] 06:00 PM
   Multi Lumen - [**2144-4-11**] 09:05 PM
   PA Catheter - [**2144-4-14**] 12:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   severe chf with superimposed sepsis.
   off milrninone
   will check frequent swan numbers and try to diurese
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2144-4-15**] 11:02 ------

2144-04-16 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2144-4-15**] 04:00 PM
   central line in too far by CXR confirmation- pulled back 3 cm by HO
 MULTI LUMEN - START [**2144-4-15**] 04:00 PM
   Blood cx speciated as s. aureus. Drawn from RIJ subsequently pulled and
   LIJ placed
   I.D  consulted
   Abx:  d/c'ed cipro, increased vanc to 750mg q12
   continued hypokalemia despite repletions
    Has been off sedation x 24 hours.
   Failed RISBI this am with RISBI 168
   Neo weaned down to 3mcg/kg/hr from 4.5 y/d, continues vasopressin with
   bp in the 80s currently.
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-4-15**] 05:23 AM
   Metronidazole - [**2144-4-15**] 05:23 AM
   Cefipime - [**2144-4-15**] 11:30 AM
   Vancomycin - [**2144-4-15**] 12:15 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 500 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-16**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 89 (85 - 94) bpm
   BP: 99/60(73) {93/56(70) - 113/78(91)} mmHg
   RR: 10 (6 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 91.3 kg
   Height: 67 Inch
    CVP: 12 (10 - 15)mmHg
   PAP: (58 mmHg) / (34 mmHg)
   CO/CI (Fick): (4.9 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 56 - 61
   Total In:
                                                                  2,733 mL
                                                                    783 mL
   PO:
   TF:
                                                                    685 mL
                                                                    168 mL
   IVF:
                                                                  1,738 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  4,930 mL
                                                                  1,350 mL
   Urine:
                                                                  4,930 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,197 mL
                                                                   -567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/42/144/33/9
   Ve: 7.2 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology:
    CXR POST LIJ placement. Poor inspiration, NGT in place terminating in
   stomach. Difficult to eval tip IJ, read by rads as likely in lower SVC.
   LLL, retrocardiac area obscured, [**3-17**] lung collapse, stable. Engorged
   vasculature in hilar area, consistent with PAHTN. Also diffuses
   interstitial markings consistent with CHF.
   101 K/uL
   9.1 g/dL
   196 mg/dL
   1.1 mg/dL
   33 mEq/L
   2.7 mEq/L
   42 mg/dL
   94 mEq/L
   132 mEq/L
   30.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2144-4-14**]  03:50 PM
                             [**2144-4-14**]  03:57 PM
                             [**2144-4-14**]  08:47 PM
                             [**2144-4-14**]  09:02 PM
                             [**2144-4-15**]  03:56 AM
                             [**2144-4-15**]  04:26 AM
                             [**2144-4-15**]  01:38 PM
                             [**2144-4-15**]  01:45 PM
                             [**2144-4-16**]  04:51 AM
                             [**2144-4-16**]  05:05 AM
   WBC
   10.7
   7.9
   Hct
   33
   32.3
   32.6
   30.6
   Plt
   138
   101
   Cr
   1.4
   1.4
   1.3
   1.3
   1.1
   TCO2
   28
   29
   31
   32
   35
   Glucose
   177
   168
   162
   154
   239
   196
   Other labs: PT / PTT / INR:18.3/150.0/1.7, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:23/22, Alk Phos / T Bili:271/1.0,
   Differential-Neuts:91.8 %, Lymph:3.3 %, Mono:4.5 %, Eos:0.3 %, Lactic
   Acid:2.4 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 IMPAIRED SKIN INTEGRITY
 IMPAIRED HEALTH MAINTENANCE
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   Assessment and Plan
   63 y/o F w/ decompensated Stage IV CHF admitted for inotropic-assisted
   diuresis with superimposed sepsis, now intubated for hypercarbic
   respiratory failure/airway protection.
   # Pressor Requirement: Likely multifactorial with some cardiogenic and
   distributive components. Swan-Ganz catheter showing hemodynamics c/w
   with sepsis; however, this could be related to pt being on milrinone at
   the time. Additionally, pt with GPCs growing in blood cx, sensitivities
   showing oxacillin resistance, less likely to be contaminant. CXR with
   evidence Lung collapse, pulmonary edema and HTN. Sputum GS showing GPCs
   in pairs and clusters as well as GPRs, culture pending. Pt currently on
   vanc, renally dosed,  cefepime,flagyl for concern for aspiration
   - continue current abx regimen. [**Month (only) 51**] alter as cx data evolves.
   -Consult ID given presumed staph bacteremia
   -continue surveillance blood cx till 3 neg, culture if spikes or
   leukocytosis
    Final urine cx neg
   - f/u stool for c.diff
   # Respiratory failure: Intubated [**2144-4-13**] for worsening
   hypercarbia/mental status.  Respiratory failure likely multifactorial,
   with some component of heart failure/fluid overload as well as some
   pneumonia component.  Sputum GS polymicrobial, culture pending.  ABG
   this AM indicates metabolic alkalosis, mild resp acidosis, likely [**3-17**]
   hypokalemia. FI02 of 40%, peep 5 currently with Tv: 0.5 and RR.
   Continues to require intubation given RISBI of 168. Barriers to
   extubation  primarily mental status. Off sedation x24 hours, only able
   to withdraw from stimuli. [**Month (only) 51**] take time for sedation to wear off given
   renal failure/heart failure, and has baseline abnormal substrate wrt MS
   - ABG with vent changes/changes in resp status
   -K/phos repletions
   - continue abx
   - f/u sputum and blood cultures.
   -
   # PUMP: Acute on chronic right and left-sided systolic heart failure,
   with likely component of distributive/septic shock.  Echo [**2144-4-13**] shows
   mild to moderate regional left ventricular systolic dysfunction with
   near akinesis of the distal third of the ventricle with an aneurysmal
   apex. The right ventricular cavity is markedly dilated with moderate
   global free wall hypokinesis.  The patient is currently diuresing well
   on her own.  She is on phenylephrine and vasopressin for BP support but
   this regimen was devised to address CHF and sepsis, no longer
   overwhelmingly septic, CHF predominant issue
   - Wean neo, restart milrinone if no improvement with wean, d/c
   vasopressin.
   - holding ACE and beta blocker in setting of shock
   -continue swan for now, consider d/c in near futre given bacteremia
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - hold on beta blocker and ACEi due to pressor requirement
   .
   # RHYTHM: Unclear if sinus vs. junctional rhythm given poor baseline.
   Has ICD. Has had frequent ventricular ectopy. Had Afib/RVR on night of
   [**2144-4-12**], but rhythm has been more stable since then.
   - monitor on telemetry
   - K, Mg repletion
   .
   # Fixed dilated pupils: Noted on [**2144-4-13**]. Previously, pupils have been
   documented as equal and reactive. Pupillary exam improving. Head CT
   with no bleed on prelim read.
   - f/u final head CT read
   - perform neuro exam serially
   .
   # Hypervolemic hyponatremia: likely secondary to CHF.
   .
   # Elevated lactate: Likely secondary to hypoperfusion.
   - continue hemodynamic support with pressors
   .-trend lactate
   .
   # Hypothyroidism:
   - continue Synthroid
   .
   # Cardiac Risk Factors: LDL 69.  HbA1c 6.6.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2144-4-14**] 09:47 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2144-4-11**] 06:00 PM
   Multi Lumen - [**2144-4-11**] 09:05 PM
   PA Catheter - [**2144-4-14**] 12:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2144-4-16**] 12:02 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-4-11**] 06:00 PM
   PA Catheter - [**2144-4-14**] 12:24 PM
   Multi Lumen - [**2144-4-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-04-17 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2144-4-16**] 05:00 PM
 ARTERIAL LINE - START [**2144-4-16**] 05:30 PM
   - patient became hypotensive with BP's 60s/40s after adding back
   milrinone. Titrated up phenylephrine to 5 and d/c'ed milrinone with
   improvement in blood pressure. - added norepinephrine with the goal of
   weaning phenylephrine and getting patient off of vasopressin; stopped
   vasopressin.
   - called in dental consult; left pager number for dental to call back.
   - added Reglan for high residuals
   - patient required extensive K repletion
   - placed right radial A-line and d/c'ed left radial A-line, sent
   catheter tip for culture
   - phosphate very low, repleted with IV KPhos
   - C. diff negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2144-4-15**] 05:23 AM
   Cefipime - [**2144-4-16**] 12:00 PM
   Metronidazole - [**2144-4-16**] 10:38 PM
   Vancomycin - [**2144-4-17**] 12:08 AM
   Infusions:
   Furosemide (Lasix) - 2.5 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 97 (83 - 119) bpm
   BP: 84/61(70) {69/52(60) - 117/83(95)} mmHg
   RR: 15 (3 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.3 kg (admission): 91.3 kg
   Height: 67 Inch
    CVP: 12 (11 - 18)mmHg
   PAP: (49 mmHg) / (32 mmHg)
   CO/CI (Fick): (6.2 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 60 - 65
   Total In:
                                                                  2,783 mL
                                                                  1,062 mL
   PO:
   TF:
                                                                    483 mL
                                                                     54 mL
   IVF:
                                                                  1,825 mL
                                                                    908 mL
   Blood products:
   Total out:
                                                                  2,812 mL
                                                                  1,625 mL
   Urine:
                                                                  2,812 mL
                                                                  1,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -29 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 211 (211 - 400) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   RSBI
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.51/45/124/33/11
   Ve: 7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Neuro: withdraws to stimuli in Lower extremity, pupils constrict 3 to 2
   mm
   CVS: frequent ectopy
   RESP:ronchorous, improved.
   Abd: hypoechoic bowel sounds, soft, nt, nd
   ext: 2+edema, distributed to lower extremities without pneumoboots,
   WWP, weak DP/PT bilaterally.
   Labs / Radiology: am CXR
   103 K/uL
   9.2 g/dL
   181 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.6 mEq/L
   38 mg/dL
   96 mEq/L
   136 mEq/L
   31.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2144-4-15**]  04:26 AM
                             [**2144-4-15**]  01:38 PM
                             [**2144-4-15**]  01:45 PM
                             [**2144-4-16**]  04:51 AM
                             [**2144-4-16**]  05:05 AM
                             [**2144-4-16**]  10:31 AM
                             [**2144-4-16**]  06:00 PM
                             [**2144-4-16**]  06:34 PM
                             [**2144-4-17**]  01:46 AM
                             [**2144-4-17**]  02:49 AM
   WBC
   7.9
   8.3
   Hct
   30.6
   28
   32
   31.4
   Plt
   101
   103
   Cr
   1.3
   1.1
   1.0
   1.0
   TCO2
   31
   32
   35
   34
   36
   37
   Glucose
   [**Telephone/Fax (3) 13789**]81
   Other labs: PT / PTT / INR:16.0/57.5/1.4, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:23/22, Alk Phos / T Bili:271/1.0,
   Differential-Neuts:80.5 %, Band:0.0 %, Lymph:9.3 %, Mono:8.7 %, Eos:1.3
   %, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:279 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Microbiology: Blood Cx [**4-14**] , [**4-15**], [**4-17**]
   .
   [**4-16**] catheter tip sent -pending.
   [**4-15**] catheter tip sent, no growth prelim
   .
   Urine neg x2
   Sputum prelim: heavy growth staph aureus. Sparse GNRs. [**Last Name (un) **] to vanc,
   bactrim, gent, rifampin and tetracyclin.
   Resistant to levo, clinda, erythro. oxacillin. Same resistance pattern
   as blood.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 IMPAIRED SKIN INTEGRITY
 IMPAIRED HEALTH MAINTENANCE
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 IMPAIRED SKIN INTEGRITY
 IMPAIRED HEALTH MAINTENANCE
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   Assessment and Plan
   63 y/o F w/ decompensated Stage IV CHF admitted for inotropic-assisted
   diuresis with superimposed sepsis, now intubated for hypercarbic
   respiratory failure/airway protection.
   SEPSIS WITHOUT ORGAN DYSFUNCTION
   # Pressor Requirement:
   Current Swan Ganz hemodynamics  PAP: 39 improved, CO: normalized 6.2
   CVP 12: still more consistent with cardiogenic over septic picture.
   However SVR
s now lower which would be more consistent with sepsis,
   however this is more likely to residual vasodilatory effects of
   milrinone. Have been able to wean vasopressin, and is on levo for which
   is alpha/beta antagonistic  increasing both contractility, HR and PVR.
   Dobutamine would be a positive chronotrope and ionotrope with little
   effect on Peripheral resistance
   Sepsis:  Sputum cgrowing staph with same resistance pattern as blood
   thus more likely sputum source than line infection.
   Current Abx are vanc, cefepime and [**Doctor Last Name **]. GNR
s sparse growth, would
   d
c azith, and this point dc cefepime as well
Continue vancomycin, would increase dose to 1gm IV daily
2. Reasonable to continue cefepime/flagyl for possible
HAP/aspiration pneumonia
3. Recommend TEE as soon sufficiently stable to exclude ICD lead
endocarditis which would require lead extraction
4. Recommend resiting of arterial line
5. Would feel comfortable d/c'ing Cipro, as would be unusual to
have hospital acquired gram negative pathogen which is
cefepime-resistant, yet Cipro-sensitive
6. F/u surveillance cultures
   Thank you for this interesting consult, will follow with you.
   -f/u blood cx.
   -continue surveillance blood cx till 3 neg, culture if spikes or
   leukocytosis
   -cdiff negative.
   # Respiratory failure: Intubated [**2144-4-13**] for worsening
   hypercarbia/mental status.  Respiratory failure likely multifactorial,
   with some component of heart failure/fluid overload as well as some
   pneumonia component.  Sputum GS polymicrobial, culture pending.  ABG
   this AM indicates metabolic alkalosis, mild resp acidosis, likely [**3-17**]
   hypokalemia. FI02 of 40%, peep 5 currently with Tv: 0.5 and RR.
   Continues to require intubation given RISBI of 168. Barriers to
   extubation  primarily mental status. Off sedation x24 hours, only able
   to withdraw from stimuli. [**Month (only) 51**] take time for sedation to wear off given
   renal failure/heart failure, and has baseline abnormal substrate wrt MS
   - ABG with vent changes/changes in resp status
   -K/phos repletions
   - continue abx
   - f/u sputum and blood cultures.
   -
   # PUMP: Acute on chronic right and left-sided systolic heart failure,
   with likely component of distributive/septic shock.  Echo [**2144-4-13**] shows
   mild to moderate regional left ventricular systolic dysfunction with
   near akinesis of the distal third of the ventricle with an aneurysmal
   apex. The right ventricular cavity is markedly dilated with moderate
   global free wall hypokinesis.  The patient is currently diuresing well
   on her own.  She is on phenylephrine and vasopressin for BP support but
   this regimen was devised to address CHF and sepsis, no longer
   overwhelmingly septic, CHF predominant issue
   - Wean neo, restart milrinone if no improvement with wean, d/c
   vasopressin.
   - holding ACE and beta blocker in setting of shock
   -continue swan for now, consider d/c in near futre given bacteremia
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - hold on beta blocker and ACEi due to pressor requirement
   .
   # RHYTHM: Unclear if sinus vs. junctional rhythm given poor baseline.
   Has ICD. Has had frequent ventricular ectopy. Had Afib/RVR on night of
   [**2144-4-12**], but rhythm has been more stable since then.
   - monitor on telemetry
   - K, Mg repletion
   .
   # Fixed dilated pupils: Noted on [**2144-4-13**]. Previously, pupils have been
   documented as equal and reactive. Pupillary exam improving. Head CT
   with no bleed on prelim read.
   - f/u final head CT read
   - perform neuro exam serially\
   1. No acute intracranial hemorrhage or mass effect.
   2. Extensive paranasal sinus disease as described above, with air-fluid
   levels and aerosolized secretions in the maxillary sinuses, indicating
   an
   acute competent.
   3. Diffuse osteopenia, with some altered attenuation, to correlate with
   hematology labs.
   4. Incidental findings of [**Last Name (un) **] cisterna magna along with mildly dilated
   ventricles, which might relate to volume loss with or without
   superimposed
   component of communicating hydrocephalus suggest normal pressure
   hydrocephalus. To correlate clinically.
   5. Small radiolucent focus noted in the left frontal bone, which may
   represent a hemangioma or focal lytic lesion. Correlation with MR [**First Name (Titles) **]
[**Last Name (Titles) 13792**]
   scan can be considered if there is history of an underlying primary
   malignancy. Otherwise, a followup study can be considered to assess
   stability/progression, given the lack of prior images
   .
   # Hypervolemic hyponatremia: likely secondary to CHF.
   .
   # Elevated lactate: Likely secondary to hypoperfusion.
   - continue hemodynamic support with pressors
   .-trend lactate
   .
   # Hypothyroidism:
   - continue Synthroid
   .
   # Cardiac Risk Factors: LDL 69.  HbA1c 6.6.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2144-4-14**] 09:47 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2144-4-11**] 06:00 PM
   Multi Lumen - [**2144-4-11**] 09:05 PM
   PA Catheter - [**2144-4-14**] 12:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2144-4-14**] 12:24 PM
   Multi Lumen - [**2144-4-15**] 04:00 PM
   Arterial Line - [**2144-4-16**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-04-28 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2144-4-27**] 08:07 PM
 INVASIVE VENTILATION - START [**2144-4-28**] 04:42 AM
   Overnight Events:
   - OSH records arrived re: previous cardiac history; [**Doctor First Name 11273**] has them
   - ~1645: pt became more dyspneic and agitated; tried restarting lasix
   gtt; got ABG but values were skewed because O2 was set too low at the
   time; CXR did not show any significant fluid overload
   - ~1815: pt continue with dyspnea and agitation; gave lasix bolus
   - ~1900: continued symptoms, also tachycardic and CVP up 10 ~16-18; EKG
   with no significant changes: ?afib with intermittent v-pacing; spoke
   with night nurse from last night and ended up increasing lasix bolus
   and giving 500 mg IV diuril (worked last night)
   - EP came to interrogate PM but pt was SOB, so will come back tomorrow
   - neurosurgery put in orders: start plavix 3 days post-procedure
   (tomorrow); switching from dilantin to keppra
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-4-27**] 12:00 PM
   Metronidazole - [**2144-4-27**] 03:00 PM
   Vancomycin - [**2144-4-27**] 04:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-4-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-4-28**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 85 (68 - 98) bpm
   BP: 95/61(76) {73/49(57) - 110/70(86)} mmHg
   RR: 20 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.1 kg (admission): 91.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,640 mL
                                                                    445 mL
   PO:
             TF:
   IVF:
                                                                  1,490 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    250 mL
   Urine:
                                                                    685 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    555 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 39.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.50/33/168/27/3
   Ve: 5.6 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   9.9 g/dL
   107 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   37 mg/dL
   115 mEq/L
   146 mEq/L
   30.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2144-4-24**]  05:36 PM
                             [**2144-4-25**]  05:17 AM
                             [**2144-4-25**]  02:18 PM
                             [**2144-4-26**]  04:53 AM
                             [**2144-4-26**]  11:03 PM
                             [**2144-4-27**]  04:07 AM
                             [**2144-4-27**]  08:52 PM
                             [**2144-4-27**]  09:05 PM
                             [**2144-4-28**]  05:22 AM
                             [**2144-4-28**]  05:31 AM
   WBC
   8.5
   7.3
   7.4
   7.2
   Hct
   27.4
   25.9
   26.8
   23.6
   30.5
   31.2
   28.6
   30.0
   Plt
   220
   236
   254
   251
   Cr
   1.1
   1.0
   1.0
   0.9
   1.0
   TCO2
   31
   27
   Glucose
   154
   90
   106
   98
   107
   Other labs: PT / PTT / INR:15.4/30.4/1.4, CK / CKMB /
   Troponin-T:29//0.03, ALT / AST:24/54, Alk Phos / T Bili:146/1.0,
   Amylase / Lipase:70/36, Differential-Neuts:78.3 %, Band:0.0 %,
   Lymph:10.9 %, Mono:7.1 %, Eos:3.4 %, Lactic Acid:1.9 mmol/L,
   Albumin:1.9 g/dL, LDH:381 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-4-15**] 04:00 PM
   Arterial Line - [**2144-4-27**] 08:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU